US08193194B2
Ammonium hydroxide (28-30% solution, 7.5 mL) was added dropwise to a solution of the (R)-4-(4-(2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)benzene-1-sulfonyl chloride (375 mg, 0.56 mmol) in acetonitrile (5 mL) at 0° C. The reaction mixture was stirred at 0° C. for 4 h. The solution was cooled to 0° C. and aqueous 1.0 M HCl was added dropwise. The reaction mixture was extracted with CH2Cl2 (3×50 mL). The combined organic phases were dried over MgSO4. After evaporating the solvents under reduced pressure, the residue was purified by silica gel chromatography using 2-10% methanol in CH2Cl2 to give (R)-4-(4-(2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)benzene sulfonamide as colourless oil (94 mg). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=447.1; tR=2.68 min.

reactant | Ammonium hydroxide | 7.5 mL | [OH-].[NH4+]
reactant | (R)-4-(4-(2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)benzene-1-sulfonyl chloride | 0.56 mmol, 375 mg | FC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl)C | C22H25ClFN3O3S
reactant | HCl | 1.0 M | Cl | ClH
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (R)-4-(4-(2-(6-fluoro-3,4-dihydroquinolin-1(2H)-yl)propanoyl)piperazin-1-yl)benzene sulfonamide | 94 mg | FC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N)C | C22H27FN4O3S
